US09388189B2
(S)-2-(1-((5-(2-Hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(2-Hydroxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (52 mg, 0.09 mmol) was treated with trifluoroacetic acid (1.04 mL, 13.50 mmol) and a solution of ammonia (7N in methanol, 1.04 mL, 7.28 mmol) according to the method described in Example 27 to give 23 mg (56% yield) of the title compound. Purity 98%.

reactant | (S)-2-(1-((5-(2-Hydroxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.09 mmol, 52 mg | OC1=C(C=CC=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C33H37N7O3Si
reactant | trifluoroacetic acid | 13.50 mmol, 1.04 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 7.28 mmol, 7N, 1.04 mL | N | H3N
product | (S)-2-(1-((5-(2-Hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 23 mg, 56% yield | OC1=C(C=CC=C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C27H23N7O2
